US06235936B1
Synthesis of N-(3,5-Dimethylphenyl)-N-(4-phenylphenyl)benzophenone hydrazone
N-(3,5-Dimethylphenyl)benzophenone hydrazone (1.0 equiv., 0.5 mmol, 150 mg), 4-bromobiphenyl (1.0 equiv., 0.5 mmol, 117 mg), Pd(OAc)2 (0.01 equiv, 0.005 mmol, 2 mg), DPE-phos (0.01 equiv, 0.005 mmol, 3 mg), and toluene (1 mL) were added to an oven dried test tube and stirred at room temperature for 2 minutes. NaOtBu (1.4 equiv., 0.7 mmol, 67 mg) and an additional 1 mL toluene were then added. The test tube was then capped with a septum, briefly purged with argon (˜1 min.) and then heated to 100° C. under argon for 14 hours. The reaction solution was then cooled to room temperature, diluted with Et2O, filtered through Celite, and concentrated under vacuum to give the crude product as a brown oil. Purification by flash column chromatography (2% EtOAc/Hex) gave the title product as a yellow solid (149 mg, 0.33 mmol, 66% yield).

reactant | N-(3,5-Dimethylphenyl)benzophenone hydrazone | 0.5 mmol, 150 mg, 1.0 equiv. | CC=1C=C(C=C(C1)C)NN=C(C1=CC=CC=C1)C1=CC=CC=C1 | C21H20N2
reactant | 4-bromobiphenyl | 0.5 mmol, 117 mg, 1.0 equiv. | BrC1=CC=C(C=C1)C1=CC=CC=C1 | C12H9Br
reactant | NaOtBu | 0.7 mmol, 67 mg, 1.4 equiv. | CC(C)(C)[O-].[Na+]
catalyst | Pd(OAc)2 | 0.005 mmol, 2 mg, 0.01 equiv | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | N-(3,5-Dimethylphenyl)-N-(4-phenylphenyl)benzophenone hydrazone | 0.33 mmol, 149 mg, 66% yield | CC=1C=C(C=C(C1)C)N(N=C(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)C1=CC=CC=C1 | C33H28N2
